US08492378B2
2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine 7-oxide
To a solution of 2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine (1.97 g, 8.86 mmol) in acetonitrile (100 mL) was added m-chloroperbenzoic acid (2.82 g, 10.63 mmol) under ice-cooling, and the resulting mixture was stirred at room temperature for 20 hrs. The reaction mixture was concentrated under reduced pressure, and the residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=9/1-0/1) to give the title compound (1.17 g, yield 55%) as a yellow amorphous form.

reactant | 2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine | 8.86 mmol, 1.97 g | C1(=CC=CC=C1)CCC1=CC=2C(=NC=CC2)N1 | C15H14N2
reactant | m-chloroperbenzoic acid | 10.63 mmol, 2.82 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine 7-oxide | 1.17 g, yield 55% | C1(=CC=CC=C1)CCC1=CC=2C(=[N+](C=CC2)[O-])N1 | C15H14N2O
